US07538112B2
Step 8: Ethyl 6-acetyl-8-(benzyloxy)-2-(4-fluorobenzyl)-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]-pyrazine-7-carboxylate
A solution of ethyl 8-(benzyloxy)-6-bromo-2-(4-fluorobenzyl)-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]-pyrazine-7-carboxylate (0.32 g, 0.64 mmol) and N-methyldicyclohexylamine (0.20 mL, 0.96 mmol) in dioxane (1 mL) was purged with nitrogen for 5 minutes, n-butyl vinyl ether (0.83 mL, 6.4 mmol), tris(dibenzylidene-acetone)dipalladium (0.12 g, 0.13 mmol), and tri-tert-butylphosphine (0.065 g, 0.32 mmol) were added. After stirring at room temperature for 2 days, the reaction mixture was treated with 1 N HCl and stirred at room temperature overnight. The reaction mixture was partitioned between chloroform and brine. The organic extract was dried over sodium sulfate, filtered and concentrated. The residue was subjected to column chromatography on silica gel eluted with a hexanes and ethyl acetate gradient to provide titled product.

reactant | ethyl 8-(benzyloxy)-6-bromo-2-(4-fluorobenzyl)-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]-pyrazine-7-carboxylate | 0.64 mmol, 0.32 g | C(C1=CC=CC=C1)OC=1C(=C(N2C1C(N(CC2)CC2=CC=C(C=C2)F)=O)Br)C(=O)OCC | C24H22BrFN2O4
reactant | N-methyldicyclohexylamine | 0.96 mmol, 0.20 mL | CN(C1CCCCC1)C1CCCCC1 | C13H25N
reactant | n-butyl vinyl ether | 6.4 mmol, 0.83 mL | C(=C)OCCCC | C6H12O
reactant | tri-tert-butylphosphine | 0.32 mmol, 0.065 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | HCl | 1 N | Cl | ClH
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylidene-acetone)dipalladium | 0.13 mmol, 0.12 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Ethyl 6-acetyl-8-(benzyloxy)-2-(4-fluorobenzyl)-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]-pyrazine-7-carboxylate | C(C)(=O)C1=C(C(=C2N1CCN(C2=O)CC2=CC=C(C=C2)F)OCC2=CC=CC=C2)C(=O)OCC | C26H25FN2O5
